US04806663
Preparation of (2-n-butyl-3-benzofuranyl)[4-[2-(diethylamino)ethoxy]-phenyl]methanol
One mmole (645 mg) of the ketone, (2-n-butyl-3-benzofuranyl)[4-[2-(diethylamino)ethoxyl]-3,5-diiodophenyl]methanone is dissolved in 10 ml of methanol. Palladium dichloride (2 mmole, 354 mg) is added and the mixture is agitated to suspend the palladium dichloride. The temperature of the mixture is adjusted to 20° C. Sodium borohydride (10 mmole, 379 mg) is added and stirring is continued until reaction is complete (~1 hour). The palladium dichloride is removed by filtration and water is added to the filtrate. An ether extraction is performed and the product is removed from the ether phase by evaporation under reduced pressure. The produce is purified by chromatography (silica gel using methylene chloride) and results in >50% yield of the product, m.p. 203° C. (decomposes).

reactant | (2-n-butyl-3-benzofuranyl)[4-[2-(diethylamino)ethoxyl]-3,5-diiodophenyl]methanone | C(CCC)C=1OC2=C(C1C(=O)C1=CC(=C(C(=C1)I)OCCN(CC)CC)I)C=CC=C2 | C25H29I2NO3
reactant | Sodium borohydride | 10 mmole, 379 mg | [BH4-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
catalyst | Palladium dichloride | 2 mmole, 354 mg | [Pd](Cl)Cl
product | (2-n-butyl-3-benzofuranyl)[4-[2-(diethylamino)ethoxy]-phenyl]methanol | >50% yield | C(CCC)C=1OC2=C(C1C(O)C1=CC=C(C=C1)OCCN(CC)CC)C=CC=C2 | C25H33NO3
